US08466197B2
CDI (2.40 g, 14.79 mmol) was added to a solution of salicylic acid (2.02 g, 14.62 mmol) in DMF (20 mL). The reaction mixture was stirred at 50° C. for 30 min and tert-butyl alcohol (2.80 mL, 29.84 mmol) and DBU (4.4 mL, 29.45 mmol) were dropwise added. The reaction mixture was stirred at 50° C. for 16 h and allowed to reach r.t. It was poured into NaHCO3 (100 mL, saturated aqueous solution) and extracted with EtOAc (70 mL). The organic layer was dried over Na2SO4 (anhydrous), filtered and concentrated. The crude residue was flash chromatographed on SiO2 (5% EtOAc/hexanes) to furnish 2.089 g of tert-butyl 2-hydroxybenzoate (colourless oil, yield: 73%).

reactant | CDI | 14.79 mmol, 2.40 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | salicylic acid | 14.62 mmol, 2.02 g | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | tert-butyl alcohol | 29.84 mmol, 2.80 mL | C(C)(C)(C)O | C4H10O
reactant | DBU | 29.45 mmol, 4.4 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | tert-butyl 2-hydroxybenzoate | 2.089 g, yield: 73% | OC1=C(C(=O)OC(C)(C)C)C=CC=C1 | C11H14O3
